US04640930
A mixture of 0.415 g of sodium hydride (58% dispersion in mineral oil) in 50 mL dimethyl sulfoxide (dried over CaH2) was stirred under nitrogen at 70° (bath temperature) for 1 hour then allowed to cool to room temperature. To this mixture 2.8 g of (±)-trans-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)-one was added then stirred at room temperature for 30 minutes. After the dropwise addition of 1.2 g of 2-dimethylaminoethyl chloride in 10 mL dimethyl sulfoxide, the mixture was heated at 50° for 30 minutes, then poured on 50 mL of ice-water. The aqueous solution was extracted with ethyl acetate (3×40 mL). The combined extracts were washed with brine (40 mL) and dried (magnesium sulfate). Removal of the solvent gave 3.1 g (92%) of crude (±)-trans-2,3-dihydro-5[2-(dimethylamino)ethyl]-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5 -thiazocin-4(5H)-one. For analysis a sample of this compound was crystallized from ethyl acetate, mp 157°-158°.

reactant | sodium hydride | 0.415 g | [H-].[Na+]
reactant | (±)-trans-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)-one | 2.8 g | O[C@@H]1C(NC2=C3C(S[C@H]1C1=CC=C(C=C1)OC)=CC=CC3=CC=C2)=O | C20H17NO3S
reactant | 2-dimethylaminoethyl chloride | 1.2 g | CN(CCCl)C | C4H10ClN
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | (±)-trans-2,3-dihydro-5[2-(dimethylamino)ethyl]-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5 -thiazocin-4(5H)-one | 3.1 g, 92% | CN(CCN1C2=C3C(S[C@H]([C@@H](C1=O)O)C1=CC=C(C=C1)OC)=CC=CC3=CC=C2)C | C24H26N2O3S
